US08859541B2
D5b) N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]oxane-4-carboxamide
A mixture of tert-butyl-N-[5-(oxane-4-carbonylamino)-6-(2-phenylethynyl)pyridin-2-yl]-carbamate C5b (29 mg, 0.07 mmol) and DCM:TFA (9:1, 3 ml) is stirred at RT for 2 h. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3.

reactant | tert-butyl-N-[5-(oxane-4-carbonylamino)-6-(2-phenylethynyl)pyridin-2-yl]-carbamate | C(C)(C)(C)OC(NC1=NC(=C(C=C1)NC(=O)C1CCOCC1)C#CC1=CC=CC=C1)=O | C24H27N3O4
reactant | DCM TFA | 3 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]oxane-4-carboxamide | NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)NC(=O)C1CCOCC1 | C19H19N3O2
